US04723011
Preparation of diethyl 5-ethylpyridine-2,3-dicarboxylate
A stirred mixture of ethacrolein, (4.2 g, 0.05 mol), diethyl 3-chloro-2-oxo-butanedioate, (11.2 g, 0.05 mol) and ammonium sulfamate, (15.4 g, 0.135 mol) in ethanol (37 mL) is heated at reflux. After 15 hours the mixture is cooled to room temperature and the solvent removed by distillation under reduced pressure. The residue is treated with water and extracted with ethyl acetate. The organic phase is separated and concentrated in vacuo and the residue purified by column chromatography on silica gel using 4:1 hexane-ethyl acetate as the eluent to give 10.8 g (75% yield) of the title product as an oil which is shown to be 95% pure by a gas chromatography assay.

reactant | ethacrolein | 0.05 mol, 4.2 g | CCC(=C)C=O | C5H8O
reactant | diethyl 3-chloro-2-oxo-butanedioate | 0.05 mol, 11.2 g | ClC(C(C(=O)OCC)=O)C(=O)OCC | C8H11ClO5
reactant | ammonium sulfamate | 0.135 mol, 15.4 g | S(N)([O-])(=O)=O.[NH4+]
solvent | ethanol | 37 mL | C(C)O | C2H6O
product | diethyl 5-ethylpyridine-2,3-dicarboxylate | 10.8 g, 75% yield | C(C)C=1C=C(C(=NC1)C(=O)OCC)C(=O)OCC | C13H17NO4
